US04282242
Methyl 5-chloropyrrole-3-carboxylate (800 mg., 5 mmoles) was dissolved in 75 ml. of ether. Sodium hydride (57% dispersiion in oil, 430 mg., 10 mmoles) was added and the mixture stirred under nitrogen for 1 hour. Dimethyl sulfate (1 ml., 10.7 mmoles) was added and stirring continued for 2 hours. Excess sodium hydride was decomposed by cautious addition of 20 ml. of water. The ether phase was washed with 20 ml. of water and evaporated to yield methyl 1-methyl-5-chloropyrrole-3-carboxylate (oil); the entire batch being used directly in the next step.

reactant | Methyl 5-chloropyrrole-3-carboxylate | 5 mmoles, 800 mg | ClC1=CC(=CN1)C(=O)OC | C6H6ClNO2
reactant | ether | CCOCC | C4H10O
reactant | Sodium hydride | 10 mmoles, 430 mg | [H-].[Na+]
reactant | Dimethyl sulfate | 10.7 mmoles, 1 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | methyl 1-methyl-5-chloropyrrole-3-carboxylate | CN1C=C(C=C1Cl)C(=O)OC | C7H8ClNO2
